US08119676B2
1-[2-Oxo-1-phenyl-2-(4-pyridin-4-ylpiperazin-1-yl)ethyl]-1,3-dihydrobenzimidazol-2-one (IXd-1)
179 mg (0.94 mmol) of EDCl were added to a solution of 193 mg (0.72 mmol) of (2-oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetic acid (VIIId), 106 mg (0.79 mmol) of HOBt, 117 mg (0.72 mmol) of 1-pyridin-4-ylpiperazine and 0.49 ml (2.87 mmol) of ethyldiisopropylamine in dichloromethane (8 ml) while stirring in an ice-water bath. The reaction solution was slowly warmed and stirred at room temperature for 16 h. Half-saturated aqueous potassium carbonate solution was added, and the organic phase was separated off. The aqueous phase was extracted with ethyl acetate (4×50 ml) and the combined organic phases were washed with sat. NaHCO3 solution, dried over magnesium sulfate and concentrated under reduced pressure. The reaction product was used without further purification for the next reaction step. Yield: 292 mg (98%) of yellow solid

reactant | EDCl | 0.94 mmol, 179 mg | CCN=C=NCCCN(C)C.Cl
reactant | (2-oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetic acid | 0.72 mmol, 193 mg | O=C1NC2=C(N1C(C(=O)O)C1=CC=CC=C1)C=CC=C2 | C15H12N2O3
reactant | HOBt | 0.79 mmol, 106 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-pyridin-4-ylpiperazine | 0.72 mmol, 117 mg | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | ethyldiisopropylamine | 2.87 mmol, 0.49 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 1-[2-Oxo-1-phenyl-2-(4-pyridin-4-ylpiperazin-1-yl)ethyl]-1,3-dihydrobenzimidazol-2-one | O=C(C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2)=O)N2CCN(CC2)C2=CC=NC=C2 | C24H23N5O2
